.subckt inv 3 out vdd gnd

MP_I out 3 vdd vdd pmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P} 

MN_I out 3 gnd gnd nmos W={width_P} L={LAMBDA} 
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
   

.ends inv