.include and_gate.sub
.include or_gate.sub
.include nand_gate.sub
.include nor_gate.sub
.include inverter.sub


.subckt xor_Gates A B out vdd gnd 
x1 A C vdd gnd inv

x2 B D vdd gnd inv
x3 A D  1 vdd gnd and_Gates

x4 B C 2 vdd gnd and_Gates

x5 1 2  out vdd gnd or_Gates

.ends xor_Gates